US08871934B2
(4-chloro-2-methyl-9-trifluoromethyl-9H-fluoren-9-yloxy)-acetic acid
Under an argon stream, potassium carbonate (18 g) was added to a mixture of dimethylformamide (500 ml) and 4-chloro-2-methyl-fluoren-9-one (100 g). To this mixture, trimethyl(trifluoromethyl)silane (78 ml) was added dropwise over 80 min, and the mixture was further stirred at room temperature for 1 hr. To the reaction mixture was added cesium fluoride (87 g) at room temperature, then ethyl bromoacetate (63 ml) was added dropwise over 15 min, and the mixture was further stirred at room temperature for 4 hr. To the reaction mixture was added water (500 ml), and the aqueous layer was extracted twice with toluene (500 ml). The combined organic layer was washed with water (500 ml) and saturated brine (500 ml), dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. To the obtained residue were added ethanol (220 ml) and 2N aqueous sodium hydroxide solution (440 ml), and the mixture was stirred at 80° C. for 1 hr. The reaction mixture was cooled to room temperature, activated carbon (15 g) was added, and the mixture was stirred at room temperature overnight. The activated carbon was filtered off, and washed with 33 v/v % ethanol-water (120 ml). The filtrate was acidified by dropwise addition of acetic acid (151 ml), and the mixture was stirred at room temperature overnight. This suspension was filtered, the obtained solid was washed with 33 v/v % ethanol-water (150 ml), and dried under reduced pressure at 80° C. to give the title compound (136.40 g, 87%).

reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-methyl-fluoren-9-one | 100 g | ClC1=CC(=CC=2C(C3=CC=CC=C3C12)=O)C | C14H9ClO
reactant | trimethyl(trifluoromethyl)silane | 78 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | cesium fluoride | 87 g | [F-].[Cs+]
reactant | ethyl bromoacetate | 63 ml | BrCC(=O)OCC | C4H7BrO2
solvent | water | 500 ml | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | (4-chloro-2-methyl-9-trifluoromethyl-9H-fluoren-9-yloxy)-acetic acid | 136.40 g, 87% | ClC1=CC(=CC=2C(C3=CC=CC=C3C12)(OCC(=O)O)C(F)(F)F)C | C17H12ClF3O3
